US09428456B2
(3.01 b): Piperidine-4-carboxylic acid cyclohexylamide hydrochloride J-1
A solution of 4-cyclohexylcarbamoyl-piperidine-1-carboxylic acid tert-butyl ester (21.11 g, 68 mmol) in dioxane (250 mL) is treated with a 4M HCl solution in dioxane (51 ml, 204 mmol) at 0° C. for 1 h. The reaction mixture is stirred at 50° C. for 4 h. The resulting suspension is cooled down to RT and the product filtered, washed with cold dioxane (50 mL) and dried under HV. The subtitle compound (16.64 g, 99%) is obtained as a white powder; LC-MS A: tR=0.46 min; [M+H]+=211.20.

reactant | 4-cyclohexylcarbamoyl-piperidine-1-carboxylic acid tert-butyl ester | 68 mmol, 21.11 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(NC1CCCCC1)=O | C17H30N2O3
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 250 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 204 mmol, 51 ml | O1CCOCC1 | C4H8O2
product | Piperidine-4-carboxylic acid cyclohexylamide hydrochloride | 16.64 g, 99% | Cl.C1(CCCCC1)NC(=O)C1CCNCC1 | InChI=1S/C12H22N2O.ClH/c15-12(10-6-8-13-9-7-10)14-11-4-2-1-3-5-11;/h10-11,13H,1-9H2,(H,14,15);1H
